US07456424B2
5,11-Dihydridoindolo[3,2-b]carbazole was synthesized by double Fischer indolization starting from phenylhydrazine and 1,4-cyclohexanedione according to the method described in B. Robinson, J. Chem. Soc. 1963, 3097-3099.

reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | 1,4-cyclohexanedione | C1(CCC(CC1)=O)=O | C6H8O2
product | 5,11-Dihydridoindolo[3,2-b]carbazole | C1=C2C(=CC=C1)NC=1C2=CC=2NC3=CC=CC=C3C2C1 | C18H12N2
